US07498440B2
Ethyl 1-azabicyclo[2.2.2]octane-4-carboxylate
A solution of ethyl 1-(2-chloroethyl)-4-piperidinecarboxylate (20.42 g, 92.9 mmol) in THF (600 mL) was cooled to −50° C. under Ar. LDA (2.0 M in heptane/THF/ethyl benzene, 70 mL, 140 mmol) was slowly added to the solution at −50° C. over 25 min. The reaction was allowed to warm up to room temperature over 16 h. The reaction was quenched with K2CO3 (saturated aqueous) (500 mL) and extracted with Et2O (3×500 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated under vacuum. The resulting orange oil was co-evaporated three times with DCM to remove excess ethyl benzene, resulting in the title compound (16.29 g, 95.7%). EI-MS m/z 184(M+H+) Rt (1.08 min).

reactant | ethyl 1-(2-chloroethyl)-4-piperidinecarboxylate | 92.9 mmol, 20.42 g | ClCCN1CCC(CC1)C(=O)OCC | C10H18ClNO2
reactant | LDA | 140 mmol, 2.0 M, 70 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | Ethyl 1-azabicyclo[2.2.2]octane-4-carboxylate | 16.29 g, 95.7% | N12CCC(CC1)(CC2)C(=O)OCC | C10H17NO2
